US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-butoxy benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 124 mg of 4-butoxy-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 0.98 (t, 3H, J=7.6 Hz), 1.45 (m, 2H), 1.72 (m, 2H), 3.79 (t, 2H, J=6.6 Hz), 6.66 (d, 2H, J=8.8 Hz), 7.31 (d, 1H, J=2.8 Hz), 7.35–7.42 (m, 4H), 7.47 (dd, 1H, J=8.8 Hz, 2.8 Hz), 7.53–7.60 (m, 3H), 7.75 (d, 1H, J=8.8 Hz), 9.62 (s, 1H). MS: m/z 444.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-butoxy-benzenesulfonyl chloride | 124 mg | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-butoxy benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)OCCCC | C23H22ClNO4S
